US06194425B1
Nitric acid (2 equivalents of 16M) was added to a solution of N5-(2-methylpropyl)tetrazolo[1,5-a][1,7]naphthyridin-5-amine (2.0 g, 8.26 mmol) in acetic acid. The reaction mixture was heated on a steam bath for about an hour then concentrated under vacuum. The residue was poured into ice water and the resulting mixture was neutralized with sodium bicarbonate. The resulting precipitate was extracted with dichloromethane. The dichloromethane extracts were combined, washed with water, and dried over magnesium sulfate. Thin layer chromatography indicated a mixture so the material was filtered through a layer of silica gel eluting with 5% ethyl acetate in dichloromethane. The reaction was rerun on 4 g of starting material but using only one equivalent of nitric acid. The resulting material was also a mixture. The material from both reactions was combined then purified by flash chromatography eluting with mixtures of hexanes/ethyl acetate. The fractions containing the slower moving material were combined to provide about 0.3 g of N5-(2-methylpropyl)-4-nitrotetrazolo[1,5-a][1,7]naphthyridin-5-amine as a yellow solid, m.p. 173-174° C. Analysis: Calculated for C12H13N7O2: % C, 50.17; % H, 4.56; % N, 34.13; Found: % C, 49.85; % H, 4.53; % N, 34.26.

reactant | Nitric acid | 16M, 2 equivalents | [N+](=O)(O)[O-] | HNO3
reactant | N5-(2-methylpropyl)tetrazolo[1,5-a][1,7]naphthyridin-5-amine | 8.26 mmol, 2.0 g | CC(CNC1=CC=2N(C3=CN=CC=C13)N=NN2)C | C12H14N6
reactant | nitric acid | one equivalent | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N5-(2-methylpropyl)-4-nitrotetrazolo[1,5-a][1,7]naphthyridin-5-amine | about 0.3 g | CC(CNC1=C(C=2N(C3=CN=CC=C13)N=NN2)[N+](=O)[O-])C | C12H13N7O2
